US09403835B2
Step 3: 6-chloro-5-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene
A 32% solution of HCl (1.79 mL) was added to a solution of 6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (1.70 g; 5.51 mmol; 1 eq.) in AcOH (5.8 mL) and the reaction mixture was stirred at room temperature for 16 hours. The solution was diluted with DCM, washed with 1M NaOH (2×), dried over sodium sulfate and concentrated in vacuo to afford the title compound (900 mg, 78%) as a yellow solid. 1H NMR (DMSO-d6) δ 9.37 (s, 1H), 4.09-3.98 (m, 4H), 3.70-3.53 (m, 1M), 2.55 (s, 3H). HPLC (max plot) 99.8%, Rt 1.20 min. UPLC/MS: (MS+) 209.1 ([M+H]+).

reactant | HCl | 1.79 mL | Cl | ClH
reactant | 6-chloro-5-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 5.51 mmol, 1.70 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=C(C(=CN3N2)Cl)C)C1 | C14H17ClN4O2
solvent | AcOH | 5.8 mL | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-chloro-5-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene | 900 mg, 78% | ClC1=CN2N=C3C(=C2N=C1C)CNC3 | C9H9ClN4
